US04409017
A mixture of ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (1.04 g), n-propanol and a trace of concentrated sulfuric acid was heated under reflux for 4 hours. The mixture was concentrated and then partitioned between dichloromethane and water. The dichloromethane layer was washed with water, dried over MgSO4 and evaporated to give n-propyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (0.72 g) as a yellow oil.

reactant | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 1.04 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H20Cl2N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | n-propanol | C(CC)O | C3H8O
product | n-propyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 0.72 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCCC)C)C=C1 | C22H22Cl2N2O3
